US08487108B2
A CH2Cl2 solution of (tetrahydro-2H-pyran-2-yl)methanol (7.91 g, 68.1 mmol), Et3N (14 mL, 102 mmol), and catalytic DMAP was treated with 4-bromobenzenesulfonyl chloride (14.3 g, 74.9 mmol). After 2 h, the reaction was quenched with water. The organic layer was washed with 1M HCl and brine, dried over Na2SO4, filtered, and concentrated. The crude material was purified by chromatography on silica gel (EtOAc/Hex) to afford ((tetrahydro-2H-pyran-2-yl)methyl 4-bromobenzenesulfonate as an oil (16 g).

reactant | (tetrahydro-2H-pyran-2-yl)methanol | 68.1 mmol, 7.91 g | O1C(CCCC1)CO | C6H12O2
reactant | Et3N | 102 mmol, 14 mL | CCN(CC)CC | C6H15N
reactant | 4-bromobenzenesulfonyl chloride | 74.9 mmol, 14.3 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (tetrahydro-2H-pyran-2-yl)methyl 4-bromobenzenesulfonate | 16 g | BrC1=CC=C(C=C1)S(=O)(=O)OCC1OCCCC1 | C12H15BrO4S
